US07745641B2
In a similar manner to Step 4 of Example 140, 7-amino-4-(thiophen-2-yl)isoindolinone (212 mg, 0.920 mmol) was dissolved in acetonitrile (14.8 mL), and the solution was treated with potassium iodide (183 mg, 1.10 mmol), copper iodide (210 mg, 1.10 mmol), iodine (280 mg, 1.10 mmol) and tert-butyl nitrite (0.382 mL, 2.76 mmol), followed by purification by preparative thin-layer chromatography (chloroform/acetonitrile-6/1, chloroform/methanol=10/1) to obtain 7-iodo-4-(thiophen-2-yl)isoindolinone (138 mg, yield 44%).

reactant | 7-amino-4-(thiophen-2-yl)isoindolinone | 0.920 mmol, 212 mg | NC=1C=CC(=C2CNC(C12)=O)C=1SC=CC1 | C12H10N2OS
reactant | potassium iodide | 1.10 mmol, 183 mg | [I-].[K+]
reactant | iodine | 1.10 mmol, 280 mg | II | I2
reactant | tert-butyl nitrite | 2.76 mmol, 0.382 mL | N(=O)OC(C)(C)C | C4H9NO2
solvent | acetonitrile | 14.8 mL | C(C)#N | C2H3N
catalyst | copper iodide | 1.10 mmol, 210 mg | [Cu](I)I
product | 7-iodo-4-(thiophen-2-yl)isoindolinone | 138 mg, yield 44% | IC=1C=CC(=C2CNC(C12)=O)C=1SC=CC1 | C12H8INOS
